US08912208B2
C. (6-{4-[4-(2H-Tetrazol-5-ylmethyl)-cyclohexyl]-phenyl}-pyridazin-3-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine
To a mixture of (4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetonitrile (0.12 g, 0.29 mmol, 1.0 equiv) in 3 Ml DMF was added sodium azide (0.057 g, 0.88 mmol, 3.0 equiv), followed by solid ammonium chloride (0.062 g, 4.0 equiv). The reaction was heated to 140° C. over the weekend. The cooled reaction mixture was diluted with 10 Ml water and then acidified to Ph 4-5. The precipitate was filtered to afford the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 103-1.16 (m, 2 H) 1.33-1.45 (m, 2 H) 1.73 (t, J=14.27 Hz, 5 H) 2.60-2.68 (m, 3 H) 7.27 (dd, J=17.94, 8.84 Hz, 3 H) 7.79 (d,J=8.84 Hz, 1 H) 7.86-7.95 (m, 2 H) 8.01 (d, J=9.09 Hz, 1 H) 8.63 (dd, J=8.59, 1.77 Hz, 1 H) 8.87 (d, J=2.27 Hz, 1 H) 9.99 (s, 1 H); (M+H)+ 481.7.

reactant | (4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetonitrile | 0.29 mmol, 0.12 g, 1.0 equiv | FC(C1=CC=C(C=N1)NC1=CC=C(N=N1)C1=CC=C(C=C1)C1CCC(CC1)CC#N)(F)F | C24H22F3N5
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium azide | 0.88 mmol, 0.057 g, 3.0 equiv | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.062 g, 4.0 equiv | [Cl-].[NH4+]
solvent | water | O | H2O
product | (6-{4-[4-(2H-Tetrazol-5-ylmethyl)-cyclohexyl]-phenyl}-pyridazin-3-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine | N=1NN=NC1CC1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(N=N1)NC=1C=NC(=CC1)C(F)(F)F | C24H23F3N8
